US08791161B2
tert-butyl[4-(chloromethyl)-1,3-thiazol-2-yl]carbamate
A solution of 4-(chloromethyl)-1,3-thiazol-2-amine hydrochloride (530 mg, 2.86 mmol), di-tert-butyl dicarbonate (750 mg, 3.44 mmol), triethylamine (0.6 ml, 4.30 mmol) and DMAP (cat. amount) in THF (10 ml) was stirred at room temperature overnight. The mixture was diluted with ethyl acetate. washed with water and brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography (30% ethyl acetate in hexane) to give the title compound as a solid (391 mg, 45%).

reactant | 4-(chloromethyl)-1,3-thiazol-2-amine hydrochloride | 2.86 mmol, 530 mg | Cl.ClCC=1N=C(SC1)N
reactant | di-tert-butyl dicarbonate | 3.44 mmol, 750 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 4.30 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl[4-(chloromethyl)-1,3-thiazol-2-yl]carbamate | 391 mg, 45% | C(C)(C)(C)OC(NC=1SC=C(N1)CCl)=O | C9H13ClN2O2S
